US08895582B2
To a solution of 4-nitrophenylchloroformate (460 mg, 2.29 mmol) in THF (20 mL) was added 2-chloro-3-fluorobenzylamine hydrochloride (626 mg, 2.29 mmol) and DIEA (0.76 mL, 4.58 mmol) and the mixture was stirred at RT until TLC showed complete consumption of 2-chloro-3-fluorobenzylamine. The mixture was then added into a solution of (S)-2-(5-hydroxy-4-(methylamino)pentyl)isoindoline-1,3-dione (500 mg, 1.91 mmol) in THF (10 mL). The mixture was stirred overnight, concentrated and purified on RP-HPLC using a mixture of acetonitrile and H2O to give (S)-3-(2-chloro-3-fluorobenzyl)-1-(5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl)-1-methylurea (401 mg, 47%). LRMS (M+H+) m/z 448.3.

reactant | 4-nitrophenylchloroformate | 2.29 mmol, 460 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 2-chloro-3-fluorobenzylamine hydrochloride | 2.29 mmol, 626 mg | Cl.ClC1=C(CN)C=CC=C1F
reactant | DIEA | 4.58 mmol, 0.76 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-(5-hydroxy-4-(methylamino)pentyl)isoindoline-1,3-dione | 1.91 mmol, 500 mg | OC[C@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NC | C14H18N2O3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-3-(2-chloro-3-fluorobenzyl)-1-(5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl)-1-methylurea | 401 mg, 47% | ClC1=C(CNC(N(C)[C@H](CO)CCCN2C(C3=CC=CC=C3C2=O)=O)=O)C=CC=C1F | C22H23ClFN3O4
